US09422240B2
Instead of 6-(4-bromophenoxy)pyridine-3-carbaldehyde, methyl 4-(trifluoromethyl)-3-{[(trifluoromethyl)sulfonyl]oxy}benzoate (see WO 2007/129745) (2.21 g) was used and treated by the same technique as in Reference Example 13-37(2) to give methyl 3-cyclopropyl-4-(trifluoromethyl)benzoate as a colorless oil (1.42 g).

reactant | 6-(4-bromophenoxy)pyridine-3-carbaldehyde | BrC1=CC=C(OC2=CC=C(C=N2)C=O)C=C1 | C12H8BrNO2
reactant | methyl 4-(trifluoromethyl)-3-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 2.21 g | FC(C1=C(C=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F)(F)F | C10H6F6O5S
product | methyl 3-cyclopropyl-4-(trifluoromethyl)benzoate | 1.42 g | C1(CC1)C=1C=C(C(=O)OC)C=CC1C(F)(F)F | C12H11F3O2
